### PR TITLE
[Merged by Bors] - feat: Lévy convergence theorem

### PR DESCRIPTION
**Pull request by RemyDegenne**
In a finite dimensional inner product space, convergence of probability measures is equivalent to the pointwise convergence of their characteristic functions.

---

- [x] depends on: #26293

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/LevyConvergence.lean [hunk 1]
```diff
@@ -0,0 +1,232 @@
...
+    · exact ae_restrict_of_forall_mem measurableSet_Ioc h_le_Ioc
+  _ = ε / 2 := by
+    simp only [intervalIntegral.integral_div, intervalIntegral.integral_const, sub_neg_eq_add,
+      smul_eq_mul]
+    ring_nf
+    rw [mul_inv_cancel₀ hr.ne', one_mul]
+  _ < ε := by simp [hε]
+
+/-- Let `μ` be a tight sequence of probability measures and `μ₀` a probability measure.
+If `A` is a star sub-algebra that separates points and the integrals of elements of `A` with
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/LevyConvergence.lean]: Can you say more about the types of the elements of `A`?

File: Mathlib/MeasureTheory/Measure/LevyConvergence.lean [hunk 2]
```diff
@@ -0,0 +1,232 @@
...
+    {μ₀ : ProbabilityMeasure E}
+    {A : StarSubalgebra 𝕜 (E →ᵇ 𝕜)} (hA : (A.map (toContinuousMapStarₐ 𝕜)).SeparatesPoints)
+    (heq : ∀ g ∈ A, Tendsto (fun n ↦ ∫ x, g x ∂(μ n)) atTop (𝓝 (∫ x, g x ∂μ₀))) :
+    Tendsto μ atTop (𝓝 μ₀) := by
+  refine Filter.tendsto_of_subseq_tendsto fun ns hns ↦ ?_
+  have h_compact : IsCompact (closure {μ n | n}) :=
+    isCompact_closure_of_isTightMeasureSet (S := {μ n | n}) (by simpa using h_tight)
+  obtain ⟨μ', hμ'_mem, φ, hφ_mono, hφ_tendsto⟩ : ∃ μ' ∈ closure {μ n | n},
+      ∃ φ, StrictMono φ ∧ Tendsto ((fun n ↦ μ (ns n)) ∘ φ) atTop (𝓝 μ') :=
+    IsCompact.tendsto_subseq h_compact (x := fun n ↦ μ (ns n)) fun n ↦ subset_closure ⟨ns n, rfl⟩
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/LevyConvergence.lean]:
```suggestion
    h_compact.tendsto_subseq fun n ↦ subset_closure ⟨ns n, rfl⟩
```

**Review by EtienneC30 — COMMENTED** [review]
Thanks!

**Review by EtienneC30 — APPROVED** [review]

File: Mathlib/MeasureTheory/Measure/LevyConvergence.lean [hunk 3]
```diff
@@ -0,0 +1,222 @@
...
+  _ < ε := by simp [hε]
+
+/-- Let `μ` be a tight sequence of probability measures and `μ₀` a probability measure.
+If `A` is a star sub-algebra of bounded continuous scalar functions that separates points
+and the integrals of elements of `A` with respect to `μ` converge to the integrals
+with respect to `μ₀`, then `μ` converges weakly to `μ₀`. -/
+lemma ProbabilityMeasure.tendsto_of_tight_of_separatesPoints (𝕜 : Type*) [RCLike 𝕜]
+    {E : Type*} [MetricSpace E] [CompleteSpace E] [SecondCountableTopology E]
+    [MeasurableSpace E] [BorelSpace E]
+    {μ : ℕ → ProbabilityMeasure E} (h_tight : IsTightMeasureSet {(μ n : Measure E) | n})
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/LevyConvergence.lean]: Is there anything specific to the atTop filter on N in this statement, or would it work generally?

Comment (EtienneC30) [reply Mathlib/MeasureTheory/Measure/LevyConvergence.lean]: I changed it to a countably generated filter, and to a general filter in the lemma afterwards.

Comment (sgouezel) [reply Mathlib/MeasureTheory/Measure/LevyConvergence.lean]: Can you explain where it is important the filter is countably generated?

Comment (EtienneC30) [reply Mathlib/MeasureTheory/Measure/LevyConvergence.lean]: The proof is based on [Filter.tendsto_of_subseq_tendsto](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/AtTopBot/CountablyGenerated.html#Filter.tendsto_of_subseq_tendsto). Ultimately it goes back to [Nat.tendsto_iSup_of_tendsto_limsup](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Order/LiminfLimsup.html#Nat.tendsto_iSup_of_tendsto_limsup). The non nat version is about the cofinite filter, so I am not sure we'd get a very interesting statement using this one instead.

Comment (sgouezel) [reply Mathlib/MeasureTheory/Measure/LevyConvergence.lean]: Yes, I understand that the proof uses it. What is not clear to me is why the statement would need it -- naively I would tend to think this is true in full generality.

Comment (EtienneC30) [reply Mathlib/MeasureTheory/Measure/LevyConvergence.lean]: Ah sorry, well I don't have an answer. Maybe @RemyDegenne does?

Comment (EtienneC30) [reply Mathlib/MeasureTheory/Measure/LevyConvergence.lean]: > Ultimately it goes back to [Nat.tendsto_iSup_of_tendsto_limsup](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Order/LiminfLimsup.html#Nat.tendsto_iSup_of_tendsto_limsup). The non nat version is about the cofinite filter, so I am not sure we'd get a very interesting statement using this one instead.

Actually this has nothing to do with your question. I'll try to get rid of the sequence hypothesis.

Comment (EtienneC30) [reply Mathlib/MeasureTheory/Measure/LevyConvergence.lean]: I got a proof! And I am getting more familiar with filters haha, now I know that instead of converging subsequences I can just look at ultrafilters ^^ I'll clean it up and push tonight or tomorrow.

Comment (sgouezel) [reply Mathlib/MeasureTheory/Measure/LevyConvergence.lean]: Cool!

File: Mathlib/MeasureTheory/Measure/LevyConvergence.lean [hunk 4]
```diff
@@ -138,4 +145,77 @@ lemma isTightMeasureSet_of_tendsto_charFun {μ : ℕ → Measure E} [∀ i, IsPr
   _ = ε / 2 := by simp; field
   _ < ε := by simp [hε]
 
+/-- Let `μ` be a tight sequence of probability measures and `μ₀` a probability measure.
+If `A` is a star sub-algebra of bounded continuous scalar functions that separates points
+and the integrals of elements of `A` with respect to `μ` converge to the integrals
+with respect to `μ₀`, then `μ` converges weakly to `μ₀`. -/
+lemma ProbabilityMeasure.tendsto_of_tight_of_separatesPoints (𝕜 : Type*) [RCLike 𝕜]
+    {E : Type*} [MetricSpace E] [CompleteSpace E] [SecondCountableTopology E]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/LevyConvergence.lean]: Could you write it for a polish space instead?
